US04127671
22.8 g of p-acetamidophenyl chloroacetate were added in small portions to a solution of 7.5 g of diethylamine in 30 c.c. of triethylamine with stirring, while the temperature was maintained at between 40° C. and 50° C. with a bath of cold water if necessary. The process described in Example 1 was then followed to obtain 12 g of p-acetamidophenyl diethylaminoacetate hydrochloride melting point = 228° C.

reactant | p-acetamidophenyl chloroacetate | 22.8 g | ClCC(=O)OC1=CC=C(C=C1)NC(C)=O | C10H10ClNO3
reactant | diethylamine | 7.5 g | C(C)NCC | C4H11N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | p-acetamidophenyl diethylaminoacetate hydrochloride | 12 g | Cl.C(C)N(CC)CC(=O)OC1=CC=C(C=C1)NC(C)=O | InChI=1S/C14H20N2O3.ClH/c1-4-16(5-2)10-14(18)19-13-8-6-12(7-9-13)15-11(3)17;/h6-9H,4-5,10H2,1-3H3,(H,15,17);1H
